US06924278B2
A mixture of 1-acetyl-3-(3-nitrophenyl)methylene-2,5-piperazinedione (10.2 g), triethylamine (6.43 ml) and di-tert-butyl dicarbonate (23.5 g) in N,N-dimethylformamide (50 ml) was hydrogenated over 10% palladium-carbon (50% wet, 1 g) at room temperature under 2-3 atmospheres. After removal of catalyst by filtration, the filtrate was concentrated by evaporation, the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (20:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. The resulting precipitates were collected by filtration and washed with methanol to give 1-acetyl-3-[3-(tert-butoxycarbonylamino)benzyl]-2,5-piperazinedione (1.3 g) as colorless powders.

reactant | 1-acetyl-3-(3-nitrophenyl)methylene-2,5-piperazinedione | 10.2 g | C(C)(=O)N1C(C(NC(C1)=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C13H11N3O5
reactant | triethylamine | 6.43 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 23.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 1-acetyl-3-[3-(tert-butoxycarbonylamino)benzyl]-2,5-piperazinedione | 1.3 g | C(C)(=O)N1C(C(NC(C1)=O)CC1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O | C18H23N3O5
